* Subcircuit CMOS_NAND
.subckt CMOS_NAND net-_m1-pad2_ net-_m3-pad2_ net-_m1-pad3_ 
* c:\fossee\esim\library\subcircuitlibrary\cmos_nand\cmos_nand.cir
.include example/esim/sumanto_xyzaol.com_iitb/2_input_NAND/NMOS-180nm.lib
.include example/esim/sumanto_xyzaol.com_iitb/2_input_NAND/PMOS-180nm.lib
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad1_ CMOSP W=2.5u L=0.5u M=1
m4 net-_m1-pad1_ net-_m3-pad2_ net-_m1-pad3_ net-_m1-pad1_ CMOSP W=2.5u L=0.5u M=1
m2 net-_m1-pad3_ net-_m1-pad2_ net-_m2-pad3_ gnd CMOSN W=1u L=0.5u M=1
m3 net-_m2-pad3_ net-_m3-pad2_ gnd gnd CMOSN W=1u L=0.5u M=1
v1 net-_m1-pad1_ gnd  dc 5
* Control Statements

.ends CMOS_NAND